US05110956
1-(6-Methyl-1,3-benzodioxol-5-yl)ethanol
32 ml of a 1.4 M solution of methyllithium in diethyl ether was dissolved in 50 ml of anhydrous tetrahydrofuran. The obtained solution was cooled to -40° C. in a nitrogen atmosphere, followed by the addition of 5.0 g of solid (6-methyl-1,3-benzodioxol-5-yl)carboxaldehyde. The mixture was heated to a room temperature over a period of one hour, followed by the addition of water. The obtained mixture was extracted with ether and the obtained organic layer was washed with an aqueous solution of common salt, dried over magnesium sulfate and distilled to remove the solvent. The obtained white solid was recrystallized from diisopropyl ether/n-hexane to obtain 2.8 g of the title compound as a colorless crystal.

reactant | methyllithium | C[Li]
reactant | (6-methyl-1,3-benzodioxol-5-yl)carboxaldehyde | CC1=CC2=C(C=C1C=O)OCO2 | C9H8O3
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(6-Methyl-1,3-benzodioxol-5-yl)ethanol | 2.8 g | CC=1C(=CC2=C(OCO2)C1)C(C)O | C10H12O3
